US06642383B2
Preparation of 1-(2-hydroxy-1,1-dimethyl-ethyl)-3,3,5,5-tetramethyl-piperazin-2-one
Following the procedure described in Example 1C, 80 g (0.5 moles) of 2-(2-amino-2-methyl-propylamino)-2-methyl-propan-1-ol are reacted with 90 g (0.75 moles) of chloroform and 444 ml of acetone in the presence of 114 g (2.85 moles) of sodium hydroxide in 114 ml of water.

reactant | 2-(2-amino-2-methyl-propylamino)-2-methyl-propan-1-ol | 0.5 moles, 80 g | NC(CNC(CO)(C)C)(C)C | C8H20N2O
reactant | chloroform | 0.75 moles, 90 g | C(Cl)(Cl)Cl | CHCl3
reactant | acetone | 444 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 2.85 moles, 114 g | [OH-].[Na+]
reactant | water | 114 ml | O | H2O
product | 1-(2-hydroxy-1,1-dimethyl-ethyl)-3,3,5,5-tetramethyl-piperazin-2-one | OCC(C)(C)N1C(C(NC(C1)(C)C)(C)C)=O | C12H24N2O2
